US08022062B2
3,3-Dimethyl-1-p-tolyl-butan-1-one:
To a stirred solution of (±)-3,3-dimethyl-1-p-tolyl-butan-1-ol (2.15 g, 11.3 mmol) in hexane (30 mL) add manganese dioxide (2.94 g, 33.8 mmol) and heat the mixture overnight at 65° C. Cool to ambient temperature, filter the manganese salts, and concentrate in vacuo to give the desired intermediate as a colorless oil (2.2 g, 100%).

reactant | (±)-3,3-dimethyl-1-p-tolyl-butan-1-ol | 11.3 mmol, 2.15 g | CC(CC(O)C1=CC=C(C=C1)C)(C)C | C13H20O
solvent | hexane | 30 mL | CCCCCC | C6H14
catalyst | manganese dioxide | 33.8 mmol, 2.94 g | [O-2].[O-2].[Mn+4]
product | 3,3-Dimethyl-1-p-tolyl-butan-1-one | 2.2 g, 100% | CC(CC(=O)C1=CC=C(C=C1)C)(C)C | C13H18O
